US04379764
In 8 ml of DMF were dissolved 808 mg of benzoyl-L-phenylalanine and 2.05 g of Nδ,Nω -dibenzyloxycarbonyl-L-arginine 1-naphthyl ester trifluoroacetate, after which 681 mg of DCC, 405 mg of HOBt and 304 mg of TEA were added thereto with ice-cooling, and the mixture was stirred for 3 hrs, and then at room temperature for a further 24 hrs. After the reaction, the DCU thus precipitated was removed by filtration, and ethyl acetate was added to the filtrate, after which the mixture was washed with 10% citric acid solution, saturated sodium bicarbonate solution and saturated sodium chloride solution in this order, and then dried over anhydrous magnesium sulfate. The solvent was removed by evaporation under reduced pressure, and the residue thus obtained was recrystallized from chloroform-diethyl ether to obtain 1.4 g (yield 57%) of benzoyl-L-phenylalanyl-Nδ,Nω -dibenzyloxycarbonyl-L-arginine 1-naphthyl ester, m.p. 177°-185° C.

reactant | benzoyl-L-phenylalanine | 808 mg | C(C1=CC=CC=C1)(=O)N[C@@H](CC1=CC=CC=C1)C(=O)O | C16H15NO3
reactant | Nδ,Nω -dibenzyloxycarbonyl-L-arginine 1-naphthyl ester trifluoroacetate | 2.05 g | FC(C(=O)O)(F)F.C1(=CC=CC2=CC=CC=C12)OC([C@@H](N)CCCN(C(NC(=O)OCC1=CC=CC=C1)=N)C(=O)OCC1=CC=CC=C1)=O
reactant | DCC | 681 mg | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
reactant | HOBt | 405 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
solvent | DMF | 8 ml | CN(C)C=O | C3H7NO
product | benzoyl-L-phenylalanyl-Nδ,Nω -dibenzyloxycarbonyl-L-arginine 1-naphthyl ester | 1.4 g, yield 57% | C1(=CC=CC2=CC=CC=C12)OC([C@@H](NC([C@@H](NC(C1=CC=CC=C1)=O)CC1=CC=CC=C1)=O)CCCN(C(NC(=O)OCC1=CC=CC=C1)=N)C(=O)OCC1=CC=CC=C1)=O | C48H45N5O8
